US07846956B2
0.41 g of {[5-(1-methyl-1-hydroxyethyl)isoxazol-3-yl]methyl}malononitrile and 0.63 g of 4-iodo-1-butene were dissolved in 6 ml of N,N-dimethylformamide, and 0.55 g of potassium carbonate was then added under ice-cooling. The mixture was stirred at room temperature overnight. After water was added, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.43 g of (3-butenyl){[5-(1-methyl-1-hydroxyethyl)isoxazol-3-yl]methyl}malononitrile represented by the following formula:

reactant | {[5-(1-methyl-1-hydroxyethyl)isoxazol-3-yl]methyl}malononitrile | 0.41 g | CC(C)(O)C1=CC(=NO1)CC(C#N)C#N | C10H11N3O2
reactant | 4-iodo-1-butene | 0.63 g | ICCC=C | C4H7I
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (3-butenyl){[5-(1-methyl-1-hydroxyethyl)isoxazol-3-yl]methyl}malononitrile | 0.43 g | C(CC=C)C(C#N)(C#N)CC1=NOC(=C1)C(C)(O)C | C14H17N3O2
